US07501430B2
9a: Preparation of N-((3R)-1-{[(4R)-2,2-dimethyl-1,3-dioxolan-4-yl]methyl}piperidin-3-yl)-4-[6-(3-methoxyphenyl)imidazo[2,1-b][1,3]thiazol-5-yl]pyrimidin-2-amine
The 4-[6-(3-methoxyphenyl)imidazo[2,1-b][1,3]thiazol-5-yl]-N-[(3R)-piperidin-3-yl]-pyrimidin-2-amine hydrochloride (310 mg, 0.7 mmol) was dissolved in DMF (15 ml) and was treated successively with Hunig's base (240 uL, 1.4 mmol), potassium carbonate (192 mg, 0.7 mmol) and terabutylammonium iodide (26 mg, 0.07 mmol). The mixture was heated to 130° C. and the [(4S)-2,2-dimethyl-1,3-dioxolan-4-yl]methyl 4-methyl-benzenesulfonate (0.2 g, 0.7 mmol) was added in three portions. The mixture was kept at 130° C. for 5 hours, at which point no more starting material appears by HPLC. The volatiles were removed in vacuo and the residue was taken up in ether (100 ml). The organic phase was washed with water (2×20 ml) and with an aqueous sodium chloride solution (20 ml). The organic phase was dried over sodium sulfate and concentrated in vacuo, giving a yellow oil. The product was purified by flash chromatography (5:4:0.5 hexanes/EtOAc, MeOH), affording the title compound as an off-white solid (231 mg, 64%). M.p.=73-75° C. 400 MHz 1H NMR (DMSO-d6) δ: 8.71 (br. s, 1H), 8.07 (d, J=5.1 Hz, 1H), 7.42 (d, J=4.4 Hz, 1H), 7.36 (t, J=7.9 Hz, 1H), 7.19-7.11 (m, 2H), 7.04-6.92 (m, 2H), 6.36 (d, J=5.1 Hz, 1H), 4.19 (quintet, J=6.2 Hz, 1H), 3.99 (dd, J=8.1, 6.2 Hz, 1H), 3.96-3.87 (m, 1H), 3.77 (s, 3H), 3.52 (t, J=7.5 Hz, 1H), 3.15 (s, 2H), 3.05 (d, J=9.9 Hz, 1H), 2.69 (d, J=10.3 Hz, 1H), 2.15 (t, J=9.4 Hz, 1H), 2.04 (t, J=9.5 Hz, 1H), 1.90-1.82 (m, 1H), 1.75-1.65 (m, 1H), 1.59-1.48 (m, 1H), 1.40-1.25 (m, 1H), 1.29 (s, 3H), 1.21 (s, 3H). LCMS: 521 [M+H].

reactant | 4-[6-(3-methoxyphenyl)imidazo[2,1-b][1,3]thiazol-5-yl]-N-[(3R)-piperidin-3-yl]-pyrimidin-2-amine hydrochloride | 0.7 mmol, 310 mg | Cl.COC=1C=C(C=CC1)C=1N=C2SC=CN2C1C1=NC(=NC=C1)N[C@H]1CNCCC1
reactant | Hunig's base | 1.4 mmol, 240 uL | CCN(C(C)C)C(C)C | C8H19N
reactant | potassium carbonate | 0.7 mmol, 192 mg | C([O-])([O-])=O.[K+].[K+]
reactant | [(4S)-2,2-dimethyl-1,3-dioxolan-4-yl]methyl 4-methyl-benzenesulfonate | 0.7 mmol, 0.2 g | CC1=CC=C(C=C1)S(=O)(=O)OC[C@H]1OC(OC1)(C)C | C13H18O5S
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
catalyst | terabutylammonium iodide | 0.07 mmol, 26 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | N-((3R)-1-{[(4R)-2,2-dimethyl-1,3-dioxolan-4-yl]methyl}piperidin-3-yl)-4-[6-(3-methoxyphenyl)imidazo[2,1-b][1,3]thiazol-5-yl]pyrimidin-2-amine | 231 mg, 64% | CC1(OC[C@H](O1)CN1C[C@@H](CCC1)NC1=NC=CC(=N1)C1=C(N=C2SC=CN21)C2=CC(=CC=C2)OC)C | C27H32N6O3S
